Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with afib on sotalol, 
HLD, HTN, with recent stress test showing reversible ischemic 
defect awaiting elective catheterization at ___ on ___ p/w 
chest pain.  
His symptoms initially started two evenings ago with 
palpitations which persisted for a few hours in addition to 
frequent urination. No chest pain. He took an extra half dose of 
Sotalol, used his CPAP and then went back to bed. He was able to 
sleep for a few hours, but then developed right sided neck pain. 
Given his recent stress test results, his son took him to the ED 
at ___.  
At ___, yesterday morning he then developed 
substernal chest pain, radiating to bilateral chest. Pain is 
constant but waxes and wanes in severity. Denies any associated 
N/V, no recent fevers, chills, or diarrhea. He did recently come 
back from ___ on ___. He states that earlier when he had 
this pain burping seemed to relieve his symptoms.  
At ___, ___ were reportedly negative x2, and CTA 
was also negative. Copies of these reports from ___ are 
pending, though he did come with paperwork showing:  
___ 14:52 Tn <.01  
Given his plans for cardiac cath at ___, he was transferred to 
___ ED.  
In the ED, initial vitals were: T 98.0 P 70 BP 159/99 R 14 O2Sat 
97% RA  
- Labs were significant for normal CBC, normal chem 7, Tn <.01.  

- Imaging revealed a normal CXR per my read.  
Upon arrival to the floor, pt continues to have some chest 
discomfort. He requests another blanket, and would like to try 
something for GERD. He also requests his Lorazepam.  

 
Past Medical History:
-anxiety  
-HLD  
-consipation  
-depression  
-lumbar disc displacement  
-sleep apnea  
-cervical radiculopathy  
-BPH  
-atrial fibrillation  
-scrotal varices  
 
Social History:
___
Family History:
-father: stroke  
-mother: heart failure  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: 97.4 ___ 100% RA  
General: Alert, oriented, no acute distress, pleasant  
HEENT: Sclera anicteric, EOMI  
Neck: Supple, JVP not elevated  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: alert, oriented

DISCHARGE PHYSICAL EXAM:
Vital Signs: T 97.7F BP ___ P ___ R ___ SaO2 
97%/RA Weight 97.7
General: Alert, oriented, no acute distress, pleasant  
HEENT: Sclera anicteric, EOMI  
Neck: Supple, JVP not elevated  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: alert, oriented

 
Pertinent Results:
SIGNIFICANT LABS:
___ 11:40PM BLOOD WBC-5.5 RBC-4.91 Hgb-14.5 Hct-42.4 MCV-86 
MCH-29.6 MCHC-34.3 RDW-14.4 Plt ___
___ 11:30PM BLOOD Neuts-54.8 ___ Monos-6.1 Eos-2.0 
Baso-0.9
___ 11:40PM BLOOD ___ PTT-30.3 ___
___ 11:40PM BLOOD Glucose-93 UreaN-16 Creat-0.8 Na-143 
K-3.6 Cl-104 HCO3-27 AnGap-16
___ 11:40PM BLOOD CK-MB-<1
___ 11:40PM BLOOD cTropnT-<0.01
___ 07:35AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 07:35AM BLOOD Calcium-9.3 Phos-2.9 Mg-2.1
___ 11:32PM BLOOD Glucose-80 Na-144 K-4.3 Cl-106 calHCO3-21

IMAGING:
___ CXR: No acute cardiopulmonary process.
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with afib on sotalol, 
HLD, HTN, with recent stress test showing reversible ischemic 
defect awaiting elective catheterization at ___ on ___ p/w 
chest pain.  

# Chest Pain: most likely etiology gastrointestinal. Troponins 
negative x3 and EKG without changes. CTA was negative at 
___ for PE. Symptoms improved with belching and Maalox. 
Omeprazole was increased from 20 to 40 daily and the patient was 
discharged with Rx for Maalox and simethicone. Also sent with 
nitroglycerin, in the event of angina, and lorazepam for anxiety 
component. Patient will undergo scheduled cardiac 
catheterization on ___. 

# AF: sinus rhythm. Pt takes an aspirin daily but no other 
anti-coagulants. Continued sotalol 40 mg BID and aspirin 81 
daily. 

# Polyuria: Pt reported recently polyuria. Likely in the setting 
of BPH as UA negative. Will follow up with PCP. 

# CAD: recent stress test showed reversible ischemic defect 
awaiting elective catheterization at ___ on ___ p/w chest 
pain. Aspirin and statin continued. SL nitroglycerin provided to 
patient. 
 
# GERD: omeprazole increased from 20 to 40 daily, given GI as 
likely etiology of chest pain. Maalox and simethicone also 
provided for dyspepsia. 

# Anxiety/Insomnia  - continued lorazepam 

TRANSITIONAL ISSUES
- Planned elective cardiac catheterization at ___ on ___.
- Increased omeprazole from 20mg daily to 40mg daily, discharged 
with simethicone. 
- Discharged with nitroglycerin prn. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Potassium Chloride 10 mEq PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Sotalol 40 mg PO BID 
6. Lorazepam 1 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
3. Simvastatin 20 mg PO QPM 
4. Sotalol 40 mg PO BID 
5. Potassium Chloride 10 mEq PO DAILY 
6. Lorazepam 1 mg PO Q8H:PRN insomnia, anxiety 
RX *lorazepam 1 mg 1 tab by mouth every 8 hours Disp #*30 Tablet 
Refills:*0
7. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN indigestion 

RX *alum-mag hydroxide-simeth [Maalox Maximum Strength] 400 
mg-400 mg-40 mg/5 mL 15 mL by mouth every 4 hours Refills:*0
8. Simethicone 40-80 mg PO QID:PRN gas 
RX *simethicone [Gas Relief] 80 mg 1 tab by mouth every 4 hours 
Disp #*60 Tablet Refills:*0
9. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually every 5 
minutes Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
========
GERD
Chest pain

Secondary:
==========
Afib 
CAD
Anxiety
Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___:

It was a pleasure taking part in your care during your 
hospitaliztion at ___. You came in with chest pain. We did a 
cardiac work up to make sure this was not related to your heart 
and your test result were normal. The pain was likely due to 
gastric acid causing reflux. We increased your medication for 
acid (omeprazole) an you improved. We also started you on 
medication for bloating and gas pain (simethicone). Please 
follow up with your primary care doctor in the next week.

We wish you all the Best!!
 
Followup Instructions:
___